US07094790B2
2-(S)-Fluoromethyl-azetidine-1-carboxylic acid tert-butyl ester
2-(S)-Methanesulfonyloxymethyl-azetidine-1-carboxylic acid tert-butyl ester (5.62 g, 21.2 mmol) was treated with tetrabutylammonium fluoride (1 M solution in THF, 191 mL) under N2, heated to reflux for 1 hour, cooled to ambient temperature, concentrated to 50 mL, treated with water (100 mL) and extracted with ethyl acetate (2×250 mL). The combined ethyl acetate layers were washed with 0.25 M HCl (100 mL), washed with NaHCO3 solution, washed with brine, dried (MgSO4), filtered, concentrated and chromatographed (10:1 and then 5:1 hexane:ethyl acetate) to provide 2.9 g (72%). 1H NMR (300 MHz, CDCl3) δ 1.44 (s, 9 H) 2.26 (m, 2 H) 3.84 (t, J=7.46 Hz, 2 H) 4.35 (m, 1 H) 4.42 (ddd, J=46.36, 9.92, 2.71 Hz, 1 H) 4.72 (ddd, J=48.31, 10.00, 3.05 Hz, 1 H).

reactant | 2-(S)-Methanesulfonyloxymethyl-azetidine-1-carboxylic acid tert-butyl ester | 21.2 mmol, 5.62 g | C(C)(C)(C)OC(=O)N1[C@@H](CC1)COS(=O)(=O)C | C10H19NO5S
reactant | tetrabutylammonium fluoride | 1 M, 191 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 2-(S)-Fluoromethyl-azetidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](CC1)CF | C9H16FNO2
